US04486425
200 mg of benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate, followed by 45 mg of thiourea, were dissolved in 5 ml of dimethylacetamide. The solution was maintained at room temperature for 2 hours, after which a saturated aqueous solution of sodium bicarbonate was added. The reaction mixture was then extracted with 20 ml of ethyl acetate and the extract was washed with water to remove excess thiourea and then dried over anhydrous magnesium sulphate. After the drying agent had been filtered off, the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was chromatographed through 30 g of silica gel (Wacogel C-100), eluted with ethyl acetate, to afford 63 mg of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate.

reactant | benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 200 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C30H28ClN5O7S2
reactant | thiourea | 45 mg | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 63 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H27N5O6S2
